US07507730B2
NaOH (1.0M, 40.5 mL, 40.5 mmol) was added at 0° C. to a solution of 4-fluorothiophenol (5.20 g, 40.5 mmol) in methanol (100 mL) followed by addition of chloroacetone (3.87 mL, 48.6 mmol). The reaction was stirred at 0° C. for 5 minutes. Oxone (50 g, 81 mmol) was added all at once. The suspension was stirred at 0° C. and monitored by LC-MS until there was no sulfoxide (reaction intermediate) observed. The reaction was filtered and solid washed with diethyl ether. Most organic solvents were removed from the filtrate. The solution was extracted with diethyl ether three times. Combined organic phases were extracted with 5% NaOH aq. solution three times. Combined aqueous phases were acidified with 1.0N hydrochloric acid to precipitate product. Pure Step A product, 1-(4-fluorophenylsulfonyl)propan-2-one, was obtained after flash chromatography (silica gel, 3:7 ethyl acetate:hexanes) as a white solid. LC-MS found: (M+1)+=217.2.

reactant | NaOH | 40.5 mmol, 1.0M, 40.5 mL | [OH-].[Na+]
reactant | 4-fluorothiophenol | 40.5 mmol, 5.20 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | chloroacetone | 48.6 mmol, 3.87 mL | ClCC(C)=O | C3H5ClO
reactant | Oxone | 81 mmol, 50 g | OOS(=O)[O-].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 1-(4-fluorophenylsulfonyl)propan-2-one | FC1=CC=C(C=C1)S(=O)(=O)CC(C)=O | C9H9FO3S
